*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/2.20e-01[uF]/4[V]
* Murata P/N :GRM152C80G224KE19
* Property : C = 2.20e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM152C80G224KE19 Port1 Port2
C01 Port1 N01 2.19e-07
R01 Port1 N01 2.27e+08
L02 N01 N02 1.72e-10
R03 N02 N03 2.05e-02
C04 N03 N04 1.57e-05
R04 N03 N04 2.54e+02
C05 N04 N05 2.29e-05
R05 N04 N05 2.54e+01
C06 N05 N06 3.22e-05
R06 N05 N06 2.43e+00
C07 N06 N07 4.02e-05
R07 N06 N07 4.42e-01
C08 N07 N08 3.22e-05
R08 N07 N08 1.21e-01
C09 N08 N09 1.50e-05
R09 N08 N09 1.99e-02
L10 N09 N10 4.52e-11
R10 N09 N10 2.01e-01
C11 N10 N11 8.66e-09
L11 N10 N11 9.32e-11
R11 N10 N11 3.59e-02
C12 N11 Port2 1.37e-11
L12 N11 Port2 2.55e-11
R12 N11 Port2 1.94e+00
.ENDS GRM152C80G224KE19
